US05998433
c) Synthesis of N,N-dimethyl-[5-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-(5-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.252 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was then concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-(5-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.252 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)=O)=O | C25H26N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)=O)=O | InChI=1S/C25H26N2O4.ClH/c1-26(2)16-22-14-20-15-27(13-12-23(20)31-22)25(29)19-6-4-17(5-7-19)24(28)18-8-10-21(30-3)11-9-18;/h4-11,14H,12-13,15-16H2,1-3H3;1H
